US08030500B2
2-(3-Bromobenzoyl)-4-chloro-6-fluorobenzonitrile
The title compound was synthesized as described for Example 64i in 55% yield starting from 2-bromo-4-chloro-6-fluorobenzonitrile (6.35 g, 27.08 mmol) and 3-bromobenzoyl chloride (3.58 mL, 27.08 mmol).

reactant | 2-bromo-4-chloro-6-fluorobenzonitrile | 27.08 mmol, 6.35 g | BrC1=C(C#N)C(=CC(=C1)Cl)F | C7H2BrClFN
reactant | 3-bromobenzoyl chloride | 27.08 mmol, 3.58 mL | BrC=1C=C(C(=O)Cl)C=CC1 | C7H4BrClO
product | 2-(3-Bromobenzoyl)-4-chloro-6-fluorobenzonitrile | 55% yield | BrC=1C=C(C(=O)C2=C(C#N)C(=CC(=C2)Cl)F)C=CC1 | C14H6BrClFNO
